US07973012B2
(1) Preparation of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-(1,3-dioxolan-2-yl)-4-methylphenyl]-D-glucopyranose
To a tetrahydrofuran solution (36 mL) of 2-[4-(benzyloxy)-5-bromo-2-methylphenyl]-1,3-dioxolane (5.82 g, 16.6 mmol) was added dropwise under nitrogen atmosphere at −78° C. a 2.67 M n-butyllithium solution in hexane (6.40 mL, 16.6 mmol), and the mixture was stirred for 30 minutes at the same temperature. Then a tetrahydrofuran solution (18 mL) of 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone (8.16 g, 15.1 mmol) was added dropwise, and the mixture was stirred for 20 minutes at the same temperature. To the reaction solution was added a saturated aqueous solution of ammonium chloride, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of ammonium chloride and brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1 to 2:1) to obtain the title compound (10.7 g, 87%) as a yellow oily compound.

reactant | 2-[4-(benzyloxy)-5-bromo-2-methylphenyl]-1,3-dioxolane | 16.6 mmol, 5.82 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1Br)C1OCCO1)C | C17H17BrO3
reactant | n-butyllithium | 2.67 M | C(CCC)[Li]
reactant | hexane | 16.6 mmol, 6.40 mL | CCCCCC | C6H14
reactant | 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone | 15.1 mmol, 8.16 g | C(C1=CC=CC=C1)O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H34O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 36 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-(1,3-dioxolan-2-yl)-4-methylphenyl]-D-glucopyranose | 10.7 g, 87% | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C1OCCO1)C)OCC1=CC=CC=C1 | C51H52O9
